US05089512
Thiourea (33 g, 0.44 mol) was added to a solution of 2-bromo-1,3-propanedial (66 g, 0.44 mol) in acetone (1 liter) and the resulting mixture was stirred vigorously under reflux for 1 hour. After cooling to room temperature, the solid product was filtered off and dried to give 2-aminothiazolecarboxaldehyde hydrobromide (85 g) as a yellow solid, m.pt. 126° C.

reactant | Thiourea | 0.44 mol, 33 g | NC(=S)N | CH4N2S
reactant | 2-bromo-1,3-propanedial | 0.44 mol, 66 g | BrC(C=O)C=O | C3H3BrO2
reactant | acetone | 1 liter | CC(=O)C | C3H6O
product | 2-aminothiazolecarboxaldehyde hydrobromide | 85 g | Br.NC1(SC=CN1)C=O | InChI=1S/C4H6N2OS.BrH/c5-4(3-7)6-1-2-8-4;/h1-3,6H,5H2;1H
